US09238640B2
To a solution of 5-bromomethyl-2-nitrobenzoic acid methyl ester (3.00 g, 10.9 mmol) in CH2Cl2 (100 mL) was added triethylamine (3.30 g, 33.0 mmol) and 1-methylpiperazine (3.30 g, 33.0 mmol). The mixture was heated at 50° C. under nitrogen for 16 hours, then concentrated to give crude 5-(4-methylpiperazin-1-ylmethyl)-2-nitrobenzoic acid methyl ester, which was purified by column chromatography (silica gel 230-400 mesh; 1-5% methanol in dichloromethane as eluent). Yield: 3.0 g (93%). It was further converted to its hydrochloride salt (3.7 g) by stirring in 1 M HCl in ether and was isolated by filtration.

reactant | 5-bromomethyl-2-nitrobenzoic acid methyl ester | 10.9 mmol, 3.00 g | COC(C1=C(C=CC(=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
reactant | triethylamine | 33.0 mmol, 3.30 g | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 33.0 mmol, 3.30 g | CN1CCNCC1 | C5H12N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-methylpiperazin-1-ylmethyl)-2-nitrobenzoic acid methyl ester | COC(C1=C(C=CC(=C1)CN1CCN(CC1)C)[N+](=O)[O-])=O | C14H19N3O4
